US04694008
2-[2-[3-(Piperidinomethyl)phenoxy]ethylamino]-5-methoxy -pyrimidin-4-one
2-[3-(Piperidinomethyl)phenoxy]ethylamine * (1.38 g) and 2-nitroamino-5-methoxypyrimidin-4-one(1.00 g) were stirred under reflux, for 19 hours, in pyridine (15 ml). The reaction mixture was worked-up in a manner analogous to that of Example 5 to give the title compound which was converted to 2-[2-[3-(piperidinomethyl)phenoxy]-ethylamino]-5-methoxypyrimidin-4-one maleate.

reactant | 2-[3-(Piperidinomethyl)phenoxy]ethylamine | N1(CCCCC1)CC=1C=C(OCCN)C=CC1 | C14H22N2O
reactant | 2-nitroamino-5-methoxypyrimidin-4-one | 1.00 g | [N+](=O)([O-])NC1=NC=C(C(N1)=O)OC | C5H6N4O4
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | 2-[2-[3-(Piperidinomethyl)phenoxy]ethylamino]-5-methoxy -pyrimidin-4-one | N1(CCCCC1)CC=1C=C(OCCNC2=NC=C(C(N2)=O)OC)C=CC1 | C19H26N4O3
